US08258144B2
A mixture of 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (233 mg, 0.681 mmol), 3-amino-1-N-Boc-piperidine (136 mg, 0.680 mmol) and TEA (0.200 mL, 1.44 mmol) in dioxane (5 mL) was stirred at 70° C. for 20 h. Water and EtOAc were added. The organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give tert-butyl 3-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate (251 mg).

reactant | 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 0.681 mmol, 233 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H9Cl2N3O2S
reactant | 3-amino-1-N-Boc-piperidine | 0.680 mmol, 136 mg | NC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 3-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)piperidine-1-carboxylate | 251 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2CN(CCC2)C(=O)OC(C)(C)C | C23H28ClN5O4S
